US04965270
A solution of 2-amino-2-cyanoacetamide hydrochloride (0.19 g, 1.4 mmol) and (R)-N'-(1,4-dibenzyloxybut-2-oxy)-N,N-dimethylmethanimidamide (0.5 g, 1.4 mmol) in methanol (1.5 ml) was stirred at room temperature for 20 hours. The solvent was removed under reduced pressure and the residue treated with ethyl acetate (20 ml) and brine (0.05 ml). The organic solution was decanted and dried (MgSO4). The solvent was removed under reduced pressure and the residual oil extracted with hexane (3×10 ml). The hexane was decanted and the residual oil was dissolved in warm chloroform (3 ml) and treated with hexane (20 ml). After refrigeration (-18° C.) for 1 hour, the organic solution was decanted and the insoluble oil dried under vacuum to give (R)-2-[N-(1,4-dibenzyloxy-but-2-oxy)iminomethyl]amino-2-cyanoacetamide (0.37 g, 74%); IR: υmax (film) 3340, 3190, 3090, 3060, 3030, 2950, 2920, 2860, 2800, 1700, 1660, 1600, 1495, 1455, 1375, 1310, 1240, 1215, 1145, 1125, 1025, 985, 945, 905, 740, 700 cm-1 ; 1H NMR: δH [(CD3)2SO] 1.87 (2H, m, CH2), 3.54 (4H, m, 2×CH2), 4.05 (0.12H, m, CH), 4.13 (0.88H, m, CH), 4.45 (4H, m, 2×CH2), 5.07 (0.13H, d, J=8 Hz, CH), 5.26 (0.87H, d, J=8 Hz, CH), 6.80 (1H, d, J=10.5 Hz, CH), 6.92 (1H, dd, J=10.5 and 8 Hz, NH), 7.2-7.8 (12H, m, 2×C6H5 plus D2O exchangeable NH2); m/z (NH3CI) M+ 411. Found: C, 61.83; H, 6.50; N, 13.32%. C22H26N4O4. H2O requires: C, 61.67; H, 6.59; N, 13.08%.

reactant | 2-amino-2-cyanoacetamide hydrochloride | 1.4 mmol, 0.19 g | Cl.NC(C(=O)N)C#N
reactant | (R)-N'-(1,4-dibenzyloxybut-2-oxy)-N,N-dimethylmethanimidamide | 1.4 mmol, 0.5 g | C(C1=CC=CC=C1)OC[C@@H](CCOCC1=CC=CC=C1)ON=CN(C)C | C21H28N2O3
solvent | methanol | 1.5 ml | CO | CH4O
product | (R)-2-[N-(1,4-dibenzyloxy-but-2-oxy)iminomethyl]amino-2-cyanoacetamide | 0.37 g, 74% | C(C1=CC=CC=C1)OCC(CCOCC1=CC=CC=C1)ON=CN[C@@H](C(=O)N)C#N | C22H26N4O4
